US08835640B1
Preparation of 3-(5-bromonicotinoyl)-1-methylpyrrolidin-2-one
A suspension of NaH (60% in oil, 1.84 g, 46 mmol) was washed with toluene (3×10 ml) under nitrogen atmosphere. The resulting slurry in 50 ml of toluene was refluxed for 30 minutes under nitrogen and to it was added slowly a toluene (25 ml) solution of methyl 5-bromonicotinate (5 g, 23.26 mmol) and 1-methyl-2-pyrrolidone (4.58 g, 46.5 mmol) for 45 minutes. Then the reaction mixture was refluxed for 10 h. After completion of the reaction cooled to room temperature and added 10 ml of saturated ammonium chloride. The separated organic layer was dried over with sodium sulfate, filtered and evaporated under reduced pressure to obtain crude residue which was purified by silica-gel column chromatography using EtOAc/hexane (60:40) as an eluent to afford an off white solid (1.6 g, 24.4% yield).

reactant | NaH | 46 mmol, 1.84 g | [H-].[Na+]
reactant | methyl 5-bromonicotinate | 23.26 mmol, 5 g | BrC=1C=NC=C(C(=O)OC)C1 | C7H6BrNO2
reactant | 1-methyl-2-pyrrolidone | 46.5 mmol, 4.58 g | CN1C(CCC1)=O | C5H9NO
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(5-bromonicotinoyl)-1-methylpyrrolidin-2-one | 1.6 g, 24.4% yield | BrC=1C=NC=C(C(=O)C2C(N(CC2)C)=O)C1 | C11H11BrN2O2
